US04022833
Condensation of 3,3-dimethyl-1-butene oxide and hexamethylenediamine affords N,N'-(1,6-hexylene)-bis[2-hydroxy-3,3-dimethylbutylamine] (I: R= (CH3)3C, R' = H, X= (CH2)6, Z= H).

reactant | 3,3-dimethyl-1-butene oxide | CC(C1CO1)(C)C | C6H12O
reactant | hexamethylenediamine | NCCCCCCN | C6H16N2
product | N,N'-(1,6-hexylene)-bis[2-hydroxy-3,3-dimethylbutylamine] | C(CCCCCNCC(C(C)(C)C)O)NCC(C(C)(C)C)O | C18H40N2O2
